US07511133B2
A 250 mL round bottom flask was equipped with a magnetic stirrer and charged with 1-(2-nitrobenzenesulfonyl)-2,5-dihydro-1H-pyrrole (Example 87, 9.32 mmol, followed by 3:1 water/tetrahydrofuran v/v (50 mL). Indium powder (37.3 mmol) was added, followed by concentrated HCl (55.9 mmol). The reaction gives a slight exotherm and the indium forms a solid metal chunk. After 24 hours, TLC (dichloromethane/silica) indicated the reaction was mostly complete. The indium was removed with a pair of tweesers to a separate waste stream and the reaction was neutralized with sodium bicarbonate. The aqueous mixture was extracted with ethyl acetate (150 mL), the organic layer dried (Na2SO4), filtered, and the solvent was removed under reduced pressure. The residue was dissolved in dichloromethane (20 mL) and loaded onto a 600 mL sintered glass funnel charged with silica gel (400 g). The silica plug was eluted with 9:1 dichloromethane:ethyl acetate, collecting 100 mL fractions. Fractions containing the desired product were combined and the solvent was removed under diminished pressure to afford 2-(2,5-dihydropyrrole-1-sulfonyl)-aniline as a pale yellow, crystalline solid. 1.66 g, (62%). m.p.: 104-105° C. LC/MS: m/z 225.2 [C10H12N2O2S+H]+. 1H-NMR (CDCl3): δ 4.20 (s, 4H); 5.05 (b, 2H); 5.69 (s, 2H); 6.71-6.79 (m, 2H); 7.26-7.32 (t, 1H, J=8.1 Hz); 7.64-7.67 (d, 1H, J=7.9 Hz).

reactant | 1-(2-nitrobenzenesulfonyl)-2,5-dihydro-1H-pyrrole | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1CC=CC1 | C10H10N2O4S
reactant | Indium | 37.3 mmol | [In] | In
reactant | HCl | 55.9 mmol | Cl | ClH
solvent | water tetrahydrofuran | O.O1CCCC1
product | 2-(2,5-dihydropyrrole-1-sulfonyl)-aniline | N1(CC=CC1)S(=O)(=O)C1=C(N)C=CC=C1 | C10H12N2O2S
